US07626030B2
(b) 5-(6,7-Dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid
To a solution of 5-(6,7-dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester (0.2 g, 0.51 mmol, from step a) in 1:1 THF/MeOH (4 mL) was added 1.53 mL of 1N NaOH. The reaction was stirred at RT for 16 h then concentrated in vacuo. The remaining solution was acidified with 10% HCl to pH ˜5. The white precipitate was collected, dried in vacuo to afford white solid as desired acid. MS (ESI pos. ion) m/z: 365 (M+H). Calc'd Exact Mass for C20H16N2O5: 364.35.

reactant | 5-(6,7-dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C22H20N2O5
reactant | NaOH | 1N, 1.53 mL | [OH-].[Na+]
solvent | THF MeOH | 4 mL | C1CCOC1.CO
product | 5-(6,7-Dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=C(NC2=CC1)C(=O)O | C20H16N2O5
